US08735424B2
To a solution of (S)-tert-butyl 1-(6-(4-(benzyloxy)pyrimidin-2-yl)quinolin-4-yl)piperidin-3-ylcarbamate (1.0 equiv.) in 4:1 EtOH/EtOAc (0.6 M), was added 10% palladium on carbon (0.2 eq.). The resulting heterogeneous solution was stirred for 12 hours under an atmosphere of hydrogen. The mixture was then filtered through a pad of celite eluting with EtOAc. The volatiles were removed in vacuo yielding (S)-tert-butyl 1-(6-(6-oxo-1,6-dihydropyrimidin-2-yl)quinolin-4-yl)piperidin-3-ylcarbamate (87%). LCMS (m/z): 422.1 (MH+); LC Rt=2.14 min.

reactant | (S)-tert-butyl 1-(6-(4-(benzyloxy)pyrimidin-2-yl)quinolin-4-yl)piperidin-3-ylcarbamate | 1.0 equiv. | C(C1=CC=CC=C1)OC1=NC(=NC=C1)C=1C=C2C(=CC=NC2=CC1)N1C[C@H](CCC1)NC(OC(C)(C)C)=O | C30H33N5O3
catalyst | palladium on carbon | 0.2 eq. | [Pd] | Pd
solvent | EtOH EtOAc | 0.6 M | CCO.CCOC(=O)C
product | (S)-tert-butyl 1-(6-(6-oxo-1,6-dihydropyrimidin-2-yl)quinolin-4-yl)piperidin-3-ylcarbamate | 87% | O=C1C=CN=C(N1)C=1C=C2C(=CC=NC2=CC1)N1C[C@H](CCC1)NC(OC(C)(C)C)=O | C23H27N5O3
